US04871655
40 ml of nitric acid (d=1.18) was added dropwise to a solution of 10 g of p-octadecylphenol dissolved in 300 ml of acetic acid at 10° to 40° C. After one hour, the reaction mixture was poured into water, extracted with ethyl acetate, washed with water, then with aqueous sodium bicarbonate solution, followed by drying. After the solvent was evaporated, the residued crystals were recrystallized from n-hexane. 2-Nitro-4-octadecylphenol of m.p. 71° C. was obtained in an amount of 8.4 g.

reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
reactant | p-octadecylphenol | 10 g | C(CCCCCCCCCCCCCCCCC)C1=CC=C(C=C1)O | C24H42O
reactant | water | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 2-Nitro-4-octadecylphenol | [N+](=O)([O-])C1=C(C=CC(=C1)CCCCCCCCCCCCCCCCCC)O | C24H41NO3
